US08791108B2
To a solution of (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (220 mg, 0.464 mmol) in EtOH (5 mL) was added 1N NaOH (0.464 mL, 0.464 mmol) and the resulting mixture was stirred at room temp for 4 h. A this point LCMS indicated completion of reaction. Solvents were then removed under reduced pressure and the residue was diluted with water (3 mL), acidified with 1N HCl, extracted with ethyl acetate (25 mL), washed with brine (10 mL), dried (Na2SO4), filtered and concentrated to afford (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (180 mg, 0.403 mmol, 87% yield) as light yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.14 (s, 1H), 5.95 (s, 1H), 4.31-4.16 (m, 2H), 2.66 (s, 3H), 1.82-1.60 (m, 4H), 1.60-1.46 (m, 4H), 1.28-1.22 (m, 12H), 1.14 (s, 6H). LCMS (M+H)=447.4.

reactant | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.464 mmol, 220 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C(=O)OCC)C | C25H38N4O5
reactant | NaOH | 0.464 mmol, 1N, 0.464 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.403 mmol, 180 mg, 87% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C(=O)O)C | C23H34N4O5
